US07759344B2
N-(4-(1-(2-(dimethylamino)ethylamino)isoquinolin-5-yl)phenyl)-1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide.
5-Bromo-N-(2-(dimethylamino)ethyl)isoquinolin-1-amine (0.068 g, 0.2 mmol) was added to a microwave vial equipped with a stirbar, along with 1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2,3-dihydro-1H-pyrazole-4-carboxamide (0.2 g, 0.3 mmol). Then 1,4-Dioxane (3 ml, 35 mmol) was added into the mixture, followed by 2M K2CO3 (0.5 ml). Then Fibrecat (2.93% Pd, 0.010 g) was added to the mixture. The vial was capped, then placed into CEM Microwave for 10 minutes at 120° C. with 80 Watts of power supplied through Powermax feature. The mixture was diluted with DCM and water, then collected the organic layer by extracting with DCM (3×10 ml). Combined organics, dried over Na2SO4, filtered and concentrated in-vacuo. The crude was purified by ISCO Amino-propyl chromatography using MeOH/DCM as the eluent. This gave the title compounds as a tan amorphous solid (85 mg). MS (ESI pos. ion) m/z: 579 (MH+). Calc'd exact mass for C34H38N6O3: 578.

reactant | 5-Bromo-N-(2-(dimethylamino)ethyl)isoquinolin-1-amine | 0.2 mmol, 0.068 g | BrC1=C2C=CN=C(C2=CC=C1)NCCN(C)C | C13H16BrN3
reactant | 1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.3 mmol, 0.2 g | OC(CN1N(C(C(=C1C)C(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C1=CC=CC=C1)(C)C | C27H34BN3O5
reactant | 1,4-Dioxane | 35 mmol, 3 ml | O1CCOCC1 | C4H8O2
reactant | K2CO3 | 2M, 0.5 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
catalyst | Pd | [Pd] | Pd
product | N-(4-(1-(2-(dimethylamino)ethylamino)isoquinolin-5-yl)phenyl)-1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 85 mg | CN(CCNC1=NC=CC2=C(C=CC=C12)C1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)CC(C)(C)O)C1=CC=CC=C1)=O)C | C34H38N6O3
